US06340685B1
Preparation of N-(3-cyclohexylmethylamino-2-hydroxypropyl)-4-benzylpiperidinyl-indole-5-carboxamide
substituting propylamine for cyclohexylmethylamine, N-{3-n-propylamino-2-hydroxypropyl}-4-benzylpiperidinyl indole-5-carboxamide:

reactant | cyclohexylmethylamine | C1(CCCCC1)CN | C7H15N
reactant | N-{3-n-propylamino-2-hydroxypropyl}-4-benzylpiperidinyl indole-5-carboxamide | C(CC)NCC(CNC(=O)C=1C=C2C=C(NC2=CC1)N1CCC(CC1)CC1=CC=CC=C1)O | C27H36N4O2
product | N-(3-cyclohexylmethylamino-2-hydroxypropyl)-4-benzylpiperidinyl-indole-5-carboxamide | C1(CCCCC1)CNCC(CNC(=O)C=1C=C2C=C(NC2=CC1)N1CCC(CC1)CC1=CC=CC=C1)O | C31H42N4O2
